US05935757
An ice-cooled solution of 460 g of 3-(2-ethylhexyloxycarbonyl)phenylsulfonyl chloride and 0.7 L of acetonitrile was added dropwise to 0.7 L of a 28% ammonia solution. The resultant mixture was stirred for 2 hours at room temperature. Thereafter, 0.7 L of water and 35 g of common salt were added thereto, followed by extraction with 1.0 L of ethyl acetate. The extract was washed with 0.5 L of diluted hydrochloric acid and 0.5 L of saturated brine and was then decolored with 20 g of active carbon. The active carbon was removed with Celite, and then the solvent was distilled off. 0.6 L of hexane was added and crystallized by cooling, and thus 338 g (1.08 mol, yield 77%) of 3-(2-ethylhexyloxycarbonyl)phenylsulfonamide was obtained m.p. 40° C. to 42° C.

reactant | 3-(2-ethylhexyloxycarbonyl)phenylsulfonyl chloride | 460 g | C(C)C(COC(=O)C=1C=C(C=CC1)S(=O)(=O)Cl)CCCC | C15H21ClO4S
reactant | acetonitrile | 0.7 L | C(C)#N | C2H3N
reactant | ammonia | N | H3N
solvent | water | 0.7 L | O | H2O
product | 3-(2-ethylhexyloxycarbonyl)phenylsulfonamide | 1.08 mol, 338 g, yield 77% | C(C)C(COC(=O)C=1C=C(C=CC1)S(=O)(=O)N)CCCC | C15H23NO4S
